US07371773B2
Production of (Z)-3-(4-chloro-3-nitro-phenyl)-2-(3,4-dimethoxy-phenyl)-acrylonitrile (Compound 38)
4-Chloro-3-nitrobenzaldehyde (557 mg) and 3,4-dimethoxybenzyl cyanide (532 mg) were subjected to condensation in accordance with process B of (production process 2), to thereby produce the target product (372 mg, yield: 36%).

reactant | 4-Chloro-3-nitrobenzaldehyde | 557 mg | ClC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C7H4ClNO3
reactant | 3,4-dimethoxybenzyl cyanide | 532 mg | COC=1C=C(CC#N)C=CC1OC | C10H11NO2
product | (Z)-3-(4-chloro-3-nitro-phenyl)-2-(3,4-dimethoxy-phenyl)-acrylonitrile | 372 mg, yield: 36% | ClC1=C(C=C(C=C1)\C=C(/C#N)\C1=CC(=C(C=C1)OC)OC)[N+](=O)[O-] | C17H13ClN2O4
